US09108977B2
To a solution of 201 mg of t-butyl 11-methyl-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-carboxylate in 2 ml of pyridine was added 0.1 ml of ethyl chloroformate, followed by stirring at room temperature for 30 minutes. The reaction mixture was concentrated under reduced pressure and the residue was purified by silica gel chromatography (elution solvent: HEX-EtOAc) to obtain 261 mg of 8-t-butyl 1-ethyl 11-methyl-3,4,6,7,9,10-hexahydro-1H-azepino[4,5-g]quinoline-1,8(2H)-dicarboxylate as a colorless viscous substance.

reactant | t-butyl 11-methyl-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-carboxylate | 201 mg | CC=1C2=C(C=C3CCCNC13)CCN(CC2)C(=O)OC(C)(C)C | C19H28N2O2
reactant | ethyl chloroformate | 0.1 ml | ClC(=O)OCC | C3H5ClO2
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 8-t-butyl 1-ethyl 11-methyl-3,4,6,7,9,10-hexahydro-1H-azepino[4,5-g]quinoline-1,8(2H)-dicarboxylate | 261 mg | CC=1C2=C(C=C3CCCN(C13)C(=O)OCC)CCN(CC2)C(=O)OC(C)(C)C | C22H32N2O4
